US07371777B2
Ethyl 2-(3-{[(t-butoxycarbonyl)amino]methyl}-4-methoxybenzyl)-1,3-dithian-2-carboxylate
1.76 g of t-butyl N-[5-(bromomethyl)-2-methoxybenzyl]carbamate and 0.76 ml of ethyl 1,3-dithian-2-carboxylate were dissolved in anhydrous N,N-dimethylformamide. A solution of 220 mg of 60% sodium hydride in 18 ml of toluene was added under ice-cooling, and the mixture was stirred overnight. The reaction mixture was diluted with ethyl acetate and washed with water. The organic layer was dried over anhydrous magnesium sulfate, and the solvent was evaporated. The residue was purified by silica gel column chromatography, to give 1.70 g of the title compound from the 3:1 hexane-ethyl acetate fraction.

reactant | t-butyl N-[5-(bromomethyl)-2-methoxybenzyl]carbamate | 1.76 g | BrCC=1C=CC(=C(CNC(OC(C)(C)C)=O)C1)OC | C14H20BrNO3
reactant | ethyl 1,3-dithian-2-carboxylate | 0.76 ml | S1C(SCCC1)C(=O)OCC | C7H12O2S2
reactant | sodium hydride | 220 mg | [H-].[Na+]
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
solvent | toluene | 18 ml | C1(=CC=CC=C1)C | C7H8
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | Ethyl 2-(3-{[(t-butoxycarbonyl)amino]methyl}-4-methoxybenzyl)-1,3-dithian-2-carboxylate | 1.70 g | C(C)(C)(C)OC(=O)NCC=1C=C(CC2(SCCCS2)C(=O)OCC)C=CC1OC | C21H31NO5S2
